US05990161
O-benzylhydroxylamine (4.63 g, 37 mmol) was dissolved into 89% formic acid (80 ml), and 30 ml of acetic anhydride was added dropwise thereto with keeping the temperature at 50 to 60° C. After adding acetic anhydride, the solution was stirred for 2 hours at room temperature. The organic layer was rinsed and dried, and the solvent was evaporated. The residue was then purified with silica gel chromatography to obtain 3.05 g of N-benzyloxyformamide (yield: 60%). The proton NMR spectrum of the compound is 4.82 bs, 4.93 bs (2H); 7.20-7.47 m (5H); 7.93 bs, 8.30 bs (1H) (solvent: CDCl3).

reactant | O-benzylhydroxylamine | 37 mmol, 4.63 g | C(C1=CC=CC=C1)ON | C7H9NO
reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 80 ml | C(=O)O | CH2O2
product | N-benzyloxyformamide | 3.05 g, yield: 60% | C(C1=CC=CC=C1)ONC=O | C8H9NO2
